US07544835B2
3-[3-({[(2,4-Dichlorophenyl)sulfonyl]amino}methyl)-4-methoxyphenyl]-2-isopropoxypropanoic acid
To a solution of 33 mg of ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate and 25 mg of 2,4-dichlorobenzenesulfonyl chloride in 0.8 ml of dichloromethane was added 40 μl of pyridine under ice-cooling, and stirring was continued at room temperature for 4 hours. After removing the solvent, to the residue were added 1.0 ml of ethanol and 0.3 ml of 2N aqueous sodium hydroxide, and the mixture was stirred at room temperature for 2 hours. The reaction solution was diluted with water, and neutralized with 2N hydrochloric acid. The mixture was extracted with ethyl acetate and concentrated. Then, the residue was purified by HPLC using a reverse-phase column by using an elution solvent of water-acetonitrile-trifluoroacetic acid system, to give 2.0 mg of the title compound.

reactant | ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropanoate | 33 mg | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
reactant | 2,4-dichlorobenzenesulfonyl chloride | 25 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | pyridine | 40 μl | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | 3-[3-({[(2,4-Dichlorophenyl)sulfonyl]amino}methyl)-4-methoxyphenyl]-2-isopropoxypropanoic acid | 2.0 mg | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)NCC=1C=C(C=CC1OC)CC(C(=O)O)OC(C)C | C20H23Cl2NO6S
